US07935724B2
To 5-benzoylamino -benzo[b]thiophene-2-carboxylic acid ethyl ester (102.9 mg, 0.32 mmol) were added NH2OH.HCl (76.2 mg, 0.97 mmol) and 5 mL of anhydrous MeOH. A solution of NaOMe (4.37 M in MeOH, 0.50 mL, 2.18 mmol) was added. The resulting mixture was allowed to stir at rt for 2 days. The reaction mixture was concentrated and the residue was dissolved in a minimal amount of water. After extracted with 5 mL of hexanes/EtOAc (4:1), the aqueous layer was acidified with 2N aqueous HCl to pH≈7. The precipitate was filtered, collected and dried to give 5-benzoylamino-benzo[b]thiophene-2-carboxylic acid hydroxyamide as a pale solid. 1H NMR (DMSO-d6, 200 MHz) δ 10.41 (s, 1H), 8.44 (s, 1H), 8.10-7.82 (m, 4H), 7.76 (dd, J=8.7, 2.1 Hz, 1H), 7.68-7.35 (m, 4H). MS (EI): cal'd 313.1 (MH+), exp 313.2 (MH+).

reactant | 5-benzoylamino -benzo[b]thiophene-2-carboxylic acid ethyl ester | 0.32 mmol, 102.9 mg | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)NC(C2=CC=CC=C2)=O | C18H15NO3S
reactant | NH2OH.HCl | 0.97 mmol, 76.2 mg | NO.Cl
reactant | NaOMe | 2.18 mmol, 4.37 M, 0.50 mL | C[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 5-benzoylamino-benzo[b]thiophene-2-carboxylic acid hydroxyamide | ONC(=O)C1=CC2=C(S1)C=CC(=C2)NC(C2=CC=CC=C2)=O | C16H12N2O3S
